US06794397B2
N-(4-Ethoxy-2-nitrophenyl)-2-pyridinecarboxamide
The title compound was prepared from picolinic acid and 4-ethoxy-2-nitroaniline as a yellow solid as described in Example 15. 1H NMR (CDCl3): 12.54 (s, 1H), 8.92 (d, J=9.3, 1H), 8.73 (d, J=3.9, 1H), 8.28 (d, J=6.9, 1H), 7.95-7.90 (m, 1H), 7.74 (d, J=3.0, 1H), 7.54-7.50 (m, 1H), 7.31-7.27 (m, 1H), 4.11 (q, J=6.9, 2H), 1.46 (t, J=6.9, 3H).

reactant | picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | N-(4-Ethoxy-2-nitrophenyl)-2-pyridinecarboxamide | C(C)OC1=CC(=C(C=C1)NC(=O)C1=NC=CC=C1)[N+](=O)[O-] | C14H13N3O4
